US07081538B1
(5RS)-3-(3-Fluoro-4-(1,2,5,6-tetrahydropyrid-4-yl)phenyl]-5-isoxazol-3-ylaminomethyl-4,5-dihydroisoxazole hydrochloride
(5RS)-3-(3-Fluoro-4-(1-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)-5-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)-4,5-dihydroisoxazole (817 mg, 1.51 mM) was treated with ethanolic hydrogen chloride under essentially the conditions of the equivalent intermediate of Example 1, to give the desired product directly from the reaction mixture after washing with diethyl ether (310 mg). MS(ESP): 343 (MH+) for C18H19FN4O2 NMR (DMSO-d6) δ: 2.65 (br, 2H); 3.19 (dd partly overlapped, 1H); 3.23 (overlapping m, 4H); 3.47 (dd, 1H); 3.71 (br, 2H); 4.91 (m, 1H); 5.97 (d, 1H); 6.09 (br, 1H); 7.46 (overlapping m, 3H); 8.34 (d, 1H); 9.51 (br, 2H).

reactant | (5RS)-3-(3-Fluoro-4-(1-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)-5-(N-(t-butoxycarbonyl)isoxazol-3-ylaminomethyl)-4,5-dihydroisoxazole | 1.51 mM, 817 mg | FC=1C=C(C=CC1C1=CCN(CC1)C(=O)OC(C)(C)C)C1=NOC(C1)CN(C(=O)OC(C)(C)C)C1=NOC=C1 | C28H35FN4O6
reactant | hydrogen chloride | Cl | ClH
product | (5RS)-3-(3-Fluoro-4-(1,2,5,6-tetrahydropyrid-4-yl)phenyl]-5-isoxazol-3-ylaminomethyl-4,5-dihydroisoxazole hydrochloride | Cl.FC=1C=C(C=CC1C1=CCNCC1)C1=NOC(C1)CNC1=NOC=C1 | InChI=1S/C18H19FN4O2.ClH/c19-16-9-13(1-2-15(16)12-3-6-20-7-4-12)17-10-14(25-22-17)11-21-18-5-8-24-23-18;/h1-3,5,8-9,14,20H,4,6-7,10-11H2,(H,21,23);1H
